US04659862
Preparation of Methyl α-Methyl-(2-nitro-5-chloro-6-bromocyclohexa-2,4-dien-1-yl)acetate
To a solution of 0.779 g (5.00 mmol) of 4-chloronitrobenzene and 0.930 mL (5.04 mmol) of [1-methoxy-1-propenyl)oxy]trimethylsilane (MTS) in 15 mL of anhydrous THF was added 1.348 g (4.90 mmol) of tris(dimethylamino)sulfonium trimethyldifluorosilicate (TASF) in 4 mL of THF and 2 mL of acetonitrile in 10 min at -78° C. The mixture was stirred for 45 min at -78° C. A solution of 0.250 mL (4.88 mmol) of bromine in 2 mL of cyclohexane was added, and the mixture was stirred for 15 min. After warming to room temperature, 20 mL of saturated sodium bisulfite was added. Extraction with four 50 mL portions of ether gave a product mixture from which, after separation by column chromatography, 0.233 g (14%) of the named produced was obtained. The following analytical data was obtained: IR (KBr): 1740, 1525, 1345 cm-1 ; 1HNMR: δ 7.55 (d, J=6 Hz), 7.48 (d, J=6 Hz) together 1H, 6.30 (d, m, J=6 Hz), 6.34 (d, m, J=6 Hz) together 1H), 5.00 (s, br), 4.90 (s, br) together 1H, 4.15 (d, m, J=5 Hz), 3.97 (d, m, J=5 Hz) together 1H, 3.74 (s), 3.67 (s) together 3H 2.83 (m, 1H), 1.22 (d, J=7 Hz), 1.15 (d, J=7 Hz) together 3H; HRMS: M+ --HBr,--NO2 197.0366; calculated for C10H10O2Cl 197.0369; Chemical ionization mass spectrum: M+ 323 and showed the presence of 1Cl, 1Br, and an odd number of N.

reactant | 4-chloronitrobenzene | 5.00 mmol, 0.779 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | trimethylsilane | C[SiH](C)C | C3H10Si
reactant | bromine | 4.88 mmol, 0.250 mL | BrBr | Br2
reactant | sodium bisulfite | 20 mL | S([O-])(O)=O.[Na+]
reactant | KBr | [K+].[Br-]
reactant | HBr | Br | BrH
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | cyclohexane | 2 mL | C1CCCCC1 | C6H12
product | Methyl α-Methyl-(2-nitro-5-chloro-6-bromocyclohexa-2,4-dien-1-yl)acetate | CC(C(=O)OC)C1C(=CC=C(C1Br)Cl)[N+](=O)[O-] | C10H11BrClNO4
